US07825131B2
Step B: 4-(3-Fluorophenyl)-6-methoxy-1-[(1-methyl-1H-1,2,4-triazol-5-yl)methyl]-2-oxo-1,2-dihydroquinoline-3-carbonitrile
To a solution of 4-(3-fluorophenyl)-6-methoxy-2-oxo-1,2-dihydroquinoline-3-carbonitrile (46.0 mg, 0.156 mmol) in 2 mL of 1,2-dimethoxyethane and 0.5 mL of N,N-dimethylformamide at 0° C. was added sodium hydride (8.0 mg of 60% dispersion in mineral oil, 0.23 mmol). After 10 minutes, lithium bromide was added (27 mg, 0.31 mmol), and the reaction was stirred for one hour. A solution of (1-Methyl-1H-1,2,4-triazol-5-yl)methyl methanesulfonate (33 mg, 0.17 mmol) in 0.5 mL of N,N-dimethylformamide was added, and the reaction was allowed to warm to room temperature. After one hour, the reaction was quenched with water and partitioned between EtOAc and water, and the organic layer was washed with brine, dried over Na2SO4, filtered, and concentrated in vacuo. The crude product was crystallized from EtOAc/hexane to provide the titled product. 1H NMR, difference nOe, and HMQC NMR spectral data for the product were consistent with the titled compound. HRMS (ES) exact mass calculated for C21H16FN5O2 (M+H+): 390.1361. Found 390.1409.

reactant | 4-(3-fluorophenyl)-6-methoxy-2-oxo-1,2-dihydroquinoline-3-carbonitrile | 0.156 mmol, 46.0 mg | FC=1C=C(C=CC1)C1=C(C(NC2=CC=C(C=C12)OC)=O)C#N | C17H11FN2O2
reactant | sodium hydride | 0.23 mmol, 8.0 mg | [H-].[Na+]
reactant | lithium bromide | [Br-].[Li+]
reactant | (1-Methyl-1H-1,2,4-triazol-5-yl)methyl methanesulfonate | 0.17 mmol, 33 mg | CS(=O)(=O)OCC1=NC=NN1C | C5H9N3O3S
solvent | 1,2-dimethoxyethane | 2 mL | COCCOC | C4H10O2
solvent | N,N-dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
product | 4-(3-Fluorophenyl)-6-methoxy-1-[(1-methyl-1H-1,2,4-triazol-5-yl)methyl]-2-oxo-1,2-dihydroquinoline-3-carbonitrile | FC=1C=C(C=CC1)C1=C(C(N(C2=CC=C(C=C12)OC)CC1=NC=NN1C)=O)C#N | C21H16FN5O2
